US06642389B2
To a solution of 2-but-3-enyloxy-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-hydroxy-propionic acid ethyl ester (150 mg, 0.3 mmol) in dichloromethane (2 ml) at 0° C. was added successively triethylamine (55 μl, 0.4 mmol) and methanesulfonic acid chloride (42 μl, 0.36 mmol). The reaction was allowed to warm to ambient temperature over night and then quenched by the addition of sat. NaHCO3. The layers were separated and the aqueous phase was extracted two times with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to afford crude 2-but-3-enyloxy-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-methanesulfonyloxy-propionic acid ethyl ester which was dissolved in THF (2 ml). DBU (139 μl, 0.9 mmol) was added at ambient temperature and the mixture was stirred for 8 h at 50° C. The reaction was quenched by the addition of water, the layers were separated, and the aqueous phase was extracted two times with dichloromethane. The combined organic layers were dried over sodium sulfate, and the solvent was removed under reduced pressure to afford a brown oil which was purified by column chromatography (silica gel, hexane/AcOEt=9/1) to give 79 mg (0.166 mmol, 55%) of the title compound as bright yellow oil and 29 mg (61 μmol, 20%) 2E-but-3-enyloxy-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester as bright yellow oil.

reactant | 2-but-3-enyloxy-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-hydroxy-propionic acid ethyl ester | 0.3 mmol, 150 mg | C(C)OC(C(C(O)C1=CC(=C(C(=C1)C)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)OCCC=C)=O | C29H35NO6
reactant | triethylamine | 0.4 mmol, 55 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 0.36 mmol, 42 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-but-3-enyloxy-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-methanesulfonyloxy-propionic acid ethyl ester | C(C)OC(C(C(OS(=O)(=O)C)C1=CC(=C(C(=C1)C)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)OCCC=C)=O | C30H37NO8S
